data/mechanism_extracts/OrgChemFront/10.1039_D3QO00599B_sup_1.json
{"doi": "10.1039_D3QO00599B_sup_1", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical fluoroazotion of gem-difluoroalkenes with pyrazoles and Et3N·3HF to give trifluoromethyl-substituted N-alkylated pyrazoles", "mechanism_family": ["radical_anodic", "radical_cation"], "electrochemical_role": "Anodic oxidation of the gem-difluorostyrene 1a to a radical cation, which is then attacked by fluoride (from Et3N·3HF) and pyrazole nucleophile", "key_intermediates": [{"name": "gem-difluorostyrene radical cation of 1a", "smiles": null, "role": "reactive"}, {"name": "benzylic α-fluoro carbocation/radical after F- addition", "smiles": null, "role": "transient"}, {"name": "α-OOH, α-OMe, α-F peroxide adduct (compound 13) from O2/MeOH trapping", "smiles": "OOC(OC)(F)c1ccc(-c2ccccc2)cc1", "role": "off_pathway"}], "electron_flow": "The anode oxidizes the gem-difluorostyrene to a radical cation; fluoride from Et3N·3HF adds to give a benzylic radical/cation that is further oxidized and trapped by the pyrazole N-H nucleophile, while protons are reduced at the Pt cathode to H2.", "rate_determining_step": "Anodic single-electron oxidation of the gem-difluorostyrene", "probe_reagents": [{"name": "MeOH/O2 (radical trapping)", "smiles": "CO", "purpose": "radical_trap", "observation": "GC-MS detected peroxide adduct 13 (C15H14F2O3, exact mass 280.0911), consistent with a benzylic radical intermediate trapped by O2 and MeOH"}, {"name": "4-vinylbiphenyl (non-fluorinated styrene control)", "smiles": "C=Cc1ccc(-c2ccccc2)cc1", "purpose": "redox_probe", "observation": "Easily oxidized under the conditions (lower oxidation potential by CV) but gave only messy mixtures with no fluorination product, indicating the gem-difluoro group is essential for selectivity"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "redox_probe variant"], "evidence_strength": "medium", "notes": "CV of 1a, Et3N·3HF and product 3a recorded in nBu4NBF4/HFIP-PhCF3 shows 1a is oxidized within the operating window; control with normal styrene (4-vinylbiphenyl) demonstrates that the CF2 group is required to stabilize/direct the radical-cation intermediate. Optimization shows DCM/HFIP or PhCF3/HFIP mixed solvent and graphite(+)/Pt(-) electrodes are critical; no electricity gives 0% yield, confirming electrochemical initiation."}
